US04650810
(ii) 1-Acetyl-1H-indole-5-acetic acid, methyl ester
An intimate mixture of 1-acetyl-2,3-dihydro-1H-indole-5-acetic acid, methyl ester (2.96 g) and 10% palladium on charcoal (50% moistened with water) (6.18 g) was heated at 200° for 11/2 h and the resulting solid was continuously extracted with chloroform (Soxhlet) for 2 h. Evaporation of the solvent gave an oil (1.21 g), which was purified by column chromatography on silica (Merck 7734; 138 g). Elution with ether-petroleum ether (1:1) gave the title compound (0.99 g) as an oil which was used in the next stage without further purification.

reactant | 1-acetyl-2,3-dihydro-1H-indole-5-acetic acid, methyl ester | 2.96 g | C(C)(=O)N1CCC2=CC(=CC=C12)CC(=O)OC | C13H15NO3
catalyst | palladium on charcoal | 6.18 g | [Pd] | Pd
product | 1-Acetyl-1H-indole-5-acetic acid, methyl ester | 1.21 g | C(C)(=O)N1C=CC2=CC(=CC=C12)CC(=O)OC | C13H13NO3
